US07547779B2
Step 1. 3-(Methyloxy)-N-[2-(4-morpholinyl)ethyl]benzenesulfonamide
2-Morpholinoethylamine (1.75 mL, 13.3 mmol) was added over 10 min to a solution of 3-(methyloxy)benzenesulfonyl chloride (2.5 g, 12.1 mmol) in CH2Cl2 (10 mL) and pyridine (4 mL) and the resulting solution was stirred at rt for 1 h. The mixture was concentrated, dissolved in EtOAc and the organic phase was washed with H2O and brine, dried (MgSO4), filtered and the filtrate was concentrated to give an orange oil (3.3 g, 92%) which was used directly in the next step. MS (ES+) m/e 301 [M+H]+.

reactant | 2-Morpholinoethylamine | 13.3 mmol, 1.75 mL | O1CCN(CC1)CCN | C6H14N2O
reactant | 3-(methyloxy)benzenesulfonyl chloride | 12.1 mmol, 2.5 g | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | 3-(Methyloxy)-N-[2-(4-morpholinyl)ethyl]benzenesulfonamide | 3.3 g, 92% | COC=1C=C(C=CC1)S(=O)(=O)NCCN1CCOCC1 | C13H20N2O4S
